US03959289
To a solution of 5 gm. of di(tris-hydroxymethyl) methylammonium 10-chloro-1,4,6,9-tetrahydro-4,6-dioxopyrido[4,3-g]quinoline-2,8-dicarboxylate in 100 ml. of water is added 2.0 g. of 5% palladium-on-charcoal catalyst and 5.0 g. of magnesium oxide. The resulting mixture is hydrogenated at an initial pressure of 3 atmospheres of hydrogen until 1 mole of hydrogen has been absorbed. The mixture is filtered and the filtrate acidified by the addition of dilute hydrochloric acid. The resulting precipitate is removed by filtration. The 1,4,6,9-tetrahydro-4,6-dioxopyrido[3,2-g]quinoline-2,8-dicarboxylic acid obtained is converted to di(tris-hydroxymethyl)methylammonium 1,4,6,9-tetrahydro-4,6-dioxopyrido[3,2-g]quinoline-2,8-dicarboxylate by adding two equivalents of (tris-hydroxymethyl)methylamine in aqueous solution. The crystalline product is recovered after addition of methanol.

reactant | di(tris-hydroxymethyl) methylammonium 10-chloro-1,4,6,9-tetrahydro-4,6-dioxopyrido[4,3-g]quinoline-2,8-dicarboxylate | ClC=1C2=C(C=C3C(C=C(NC13)C(=O)[O-])=O)C(CN(C2)C(=O)[O-])=O.OC(O)(O)[NH+](C)C(O)(O)O.OC(O)(O)[NH+](C(O)(O)O)C
reactant | magnesium oxide | [O-2].[Mg+2]
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 1 mole | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | water | O | H2O
product | 1,4,6,9-tetrahydro-4,6-dioxopyrido[3,2-g]quinoline-2,8-dicarboxylic acid | O=C1C=C(NC2=CC3=C(C=C12)C(C=C(N3)C(=O)O)=O)C(=O)O | C14H8N2O6
